US04214094
At room temperature, 18.6 g of tribromomethane is added dropwise to a solution of 10 g of 4-(4-chloroanilinomethyl)phenol, 50 ml of methyl ethyl ketone, 13.8 g of powdery potassium hydroxide in 100 ml of dioxane. The mixture is refluxed under heating for 5 hours and then distilled under reduced pressure to remove the solvent, and water is added to the residue. The solution is washed with ether, thereafter adjusted to pH 4 with 10% hydrochloric acid and extracted with ethyl acetate. The extract is washed with water and dried. The solvent is distilled off from the dried extract under reduced pressure, and the resulting residue is dissolved in an aqueous solution of 2.83 g of sodium bicarbonate in 100 ml of water at 50° C. The solution is washed twice with ethyl acetate. The aqueous layer is separated and adjusted to pH 4 with 10% hydrochloric acid and extracted twice with ethyl acetate. The extract is washed with water and dried. After distilling off the solvent from the dried extract, the residue is washed with diisopropyl ether. The precipitated crystals are collected by filtration to give 4.2 g of 2-{4-(4-chloroanilinomethyl)phenoxy}-2-methylbutyric acid, mp 152° to 153° C.

reactant | tribromomethane | 18.6 g | BrC(Br)Br | CHBr3
reactant | 4-(4-chloroanilinomethyl)phenol | 10 g | ClC1=CC=C(NCC2=CC=C(C=C2)O)C=C1 | C13H12ClNO
reactant | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
reactant | potassium hydroxide | 13.8 g | [OH-].[K+]
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-{4-(4-chloroanilinomethyl)phenoxy}-2-methylbutyric acid | 4.2 g | ClC1=CC=C(NCC2=CC=C(OC(C(=O)O)(CC)C)C=C2)C=C1 | C18H20ClNO3
